* OVERALL BEST CANDIDATE: 00_Phase_2_12V_to_72V_Custom_Boost_g4_cand3_b2
* FITNESS SCORE: 0.8834
*
* Generated: 2026-06-02T15:12:22
* Constraint: Phase 2: 12V to 72V Custom (Boost)
*   vin_min = 10
*   vin_max = 14
*   vout_target = 72
*   efficiency_target = 0.88
*   power_in = 150
* Candidate: 12 of 12
* Grouped name: g4_cand3
*
* 12V to 72V Boost, D=1-72/12=800m, t_on=8u, Rload=72^2/150=34.56
Vin in 0 12
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 34.56
Vgate gate 0 PULSE(0 12 0 1n 1n 8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
